US07385061B2
4-[1-(4-Aminophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-N-(2-carboxyethyl)-amine
A solution of 4-[1-(4-acetaminophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-N-(2-cyanoethyl)-amine (0.061 g) in aqueous hydrochloric acid (5 ml, HCl conc.) is heated at reflux for two hours. The mixture is diluted with water and neutralized by addition of sodium bicarbonate. Extraction with ethyl acetate, drying over sodium sulphate, filtering and evaporation of the resulting filtrate to dryness gives the title compound in pure form, m.p. 174-177° C. 1H-NMR (400 MHz, d6-DMSO): 12.40 (s, 1H); 7.84 (m, 4H); 7.38 (m, 3H); 6.65 (m, 2H); 6.28 (S, 2H); 6.17 (s, 2H); 3.57 (m, 2H); 2.66 (t, 2H).

reactant | 4-[1-(4-acetaminophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-N-(2-cyanoethyl)-amine | 0.061 g | N(C(=O)C)C1=CC=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)NCCC#N)=O)C=C1 | C22H19N7O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | O | H2O
product | 4-[1-(4-Aminophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-N-(2-carboxyethyl)-amine | NC1=CC=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)NCCC(=O)O)=O)C=C1 | C20H18N6O4
